US07399759B2
tert-Butyl 2-pyridinecarboxylate N-oxide
tert-Butyl 2-pyridinecarboxylate (14.0 g, 78 mmol) was dissolved in ethyl acetate (200 ml), and 3-chloroperbenzoic acid (ca. 77%, 26.2 g, 117 mmol) was added thereto. The reaction mixture was stirred at room temperature for 40 hrs. The solvent was evaporated under reduced pressure. The residue was subjected to a silica gel column chromatography and eluted with ethyl acetate-acetone (1:1, v/v) to give the titled compound (12.4 g, 81%).

reactant | tert-Butyl 2-pyridinecarboxylate | 78 mmol, 14.0 g | N1=C(C=CC=C1)C(=O)OC(C)(C)C | C10H13NO2
reactant | 3-chloroperbenzoic acid | 117 mmol, 26.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 2-pyridinecarboxylate N-oxide | 12.4 g, 81% | [N+]=1(C(=CC=CC1)C(=O)OC(C)(C)C)[O-] | C10H13NO3
